US04686220
4-(3-Chloro-1,4-dihydro-1,4-dioxo-2-naphthalenyl)-1-piperazinecarboxylic acid, 2-methylpropyl ester
A solution of 830 mg of 3-chloro-2-piperazinyl-1,4-naphthoquinone in 50 ml of tetrahydrofuran was added dropwise to a solution of 0.39 ml of butyl chloroformate in 10 ml of tetrahydrofuran. This mixture was stirred for 20 minutes, then filtered and the filtrate concentrated to an oil. The oil was recrystallized from ether/hexane, giving 360 mg of the desired product, mp 92°-94° C.

reactant | 3-chloro-2-piperazinyl-1,4-naphthoquinone | 830 mg | ClC1=C(C(C2=CC=CC=C2C1=O)=O)N1CCNCC1 | C14H13ClN2O2
reactant | butyl chloroformate | 0.39 ml | ClC(=O)OCCCC | C5H9ClO2
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 4-(3-Chloro-1,4-dihydro-1,4-dioxo-2-naphthalenyl)-1-piperazinecarboxylic acid, 2-methylpropyl ester | 360 mg | ClC1=C(C(C2=CC=CC=C2C1=O)=O)N1CCN(CC1)C(=O)OCC(C)C | C19H21ClN2O4
